US07414061B2
4-[1-(2-Fluoro-5-methoxy-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (112.6 mg, 0.5 mmol) was converted, using 2-fluoro-5-methoxyphenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (6 mg, 3.4%) which was obtained as a white solid. MS (ESI): m/e=350.0 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.5 mmol, 112.6 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 2-fluoro-5-methoxyphenylboronic acid | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
product | 4-[1-(2-Fluoro-5-methoxy-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 6 mg, 3.4% | FC1=C(C=C(C=C1)OC)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C20H16FN3O2
